US05360692
The xylene solution was prepared in the same manner as in Synthesis Example (10) except that there were used 10.0 g of 2-diethylaminomethyl-4-cumyl-6-benzotriazolylphenol or a Mannich base compound, which had been obtained in the same manner as in Synthesis Example (10), except that 4-cumyl-6-benzotriazolylphenol was used as the main material for the Mannich base compound, and 6.6 g of 4-cumyl-6-benzotriazolylphenol. The resulting solution was allowed to react in the same manner as in Synthesis Example (10) and subjected to the same treatment as in Synthesis Example (10) to obtain an opal crystal having a melting point of 191° C. (the intended product).

reactant | 2-diethylaminomethyl-4-cumyl-6-benzotriazolylphenol | 10.0 g | C(C)N(CC)CC1=C(C(=CC(=C1)C(C)(C)C1=CC=CC=C1)C1=CC=CC=2NN=NC21)O | C26H30N4O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-cumyl-6-benzotriazolylphenol | C(C)(C)(C1=CC=CC=C1)C1=CC=C(C(=C1)C1=CC=CC=2NN=NC21)O | C21H19N3O
